US04360674
7.05 g (0.025 mole) of 4-bromo-1-methoxy-2-nitronaphthalene is dissolved in 300 cc of methanol by heating the mixture at reflux temperature, then 5 cc (0.05 mole) of butylamine is gradually dripped into the obtained solution and when the addition is terminated the reaction mixture is still refluxed for 30 minutes with stirring. Upon cooling to 0°-5° C. a precipitate forms which is separated by filtration and dried, yielding 5.4 g of 4-bromo-N-butyl-2-nitro-1-naphthylamine. An additional 0.92 g is recovered from the mother liquor and the two crops are combined together and recrystallized from methanol. M.p. 65°-66.5° C. A mixture of 17.6 g (0.0544 mole) of this compound and 7.84 cc (0.0816 mole) of 3-chloropropionyl chloride is stirred at 60° C. for four hours. When the reaction is completed the mixture is poured in a separatory funnel and vigorously shaken with methylene chloride and a 5% aqueous NaHCO3 solution. The organic layer is separated, washed with water and dried. The residue which is obtained by evaporating off the methylene chloride is dissolved in 180 cc of EtOH and 22 cc of glacial acetic acid. 10.4 g of powdered iron is added to the obtained solution and the resulting mixture is refluxed with stirring for 20 minutes; then it is poured into 720 cc of water and extracted with methylene chloride. The methylene chloride is evaporated off, the residue is dissolved in a mixture of 125 cc of 95% EtOH and 50 cc of 10% HCl and heated at reflux temperature for 11/2 hour. The solvent is boiled off and the solid residue is triturated with ether, filtered and dried. The yield in 5-bromo-1-butyl-2-(2-chloroethyl)-1H-naphth[1,2-d]imidazole, m.p. 172° C. (dec.), is 19.4 (90.8%).

reactant | 4-bromo-1-methoxy-2-nitronaphthalene | 0.025 mole, 7.05 g | BrC1=CC(=C(C2=CC=CC=C12)OC)[N+](=O)[O-] | C11H8BrNO3
reactant | butylamine | 0.05 mole, 5 cc | C(CCC)N | C4H11N
solvent | methanol | 300 cc | CO | CH4O
product | 4-bromo-N-butyl-2-nitro-1-naphthylamine | 5.4 g | BrC1=CC(=C(C2=CC=CC=C12)NCCCC)[N+](=O)[O-] | C14H15BrN2O2
